US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 3,5-dimethylisoxazole-4-sulfonyl chloride (0.5 mmol) to obtain N-(3,4-difluoro-2-(2-fluoro-4-iodophenyl amino)phenyl) 3,5-dimethylisoxazole-4-sulfonamide. 1H NMR (300 MHz, CDCl3)) δ 2.2 (s, 3H), 2.4 (s, 3H), 5.8 (s, 1H), 6.0 (dt, 1H), 5.95 (s, 1H), 6.9 (s, 1H), 7.0 (q, 1H), 7.2 (m, 3H), 7.4 (dd, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 3,5-dimethylisoxazole-4-sulfonyl chloride | 0.5 mmol | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenyl amino)phenyl) 3,5-dimethylisoxazole-4-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C=1C(=NOC1C)C)NC1=C(C=C(C=C1)I)F | C17H13F3IN3O3S
